US04242519
Methanol (4 ml), 1 ml of water, and 0.2 ml of conc. hydrochloric acid were added to 405 mg of methyl α-methylthio-α-[p-[dimethoxy(2-thienyl)methyl]phenyl]propionate, and the resulting mixture was heated under reflux for 30 minutes. After the mixture was cooled and shaken with 50 ml of methylene chloride, the organic layer was separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to afford 320 mg of methyl α-[p-(2-thienylcarbonyl)phenyl]propionate as a colorless oil in a yield of 90%.

reactant | Methanol | 4 ml | CO | CH4O
reactant | water | 1 ml | O | H2O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
reactant | methyl α-methylthio-α-[p-[dimethoxy(2-thienyl)methyl]phenyl]propionate | 405 mg | CSC(C(=O)OC)(C)C1=CC=C(C=C1)C(C=1SC=CC1)(OC)OC | C18H22O4S2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | methyl α-[p-(2-thienylcarbonyl)phenyl]propionate | 320 mg, yield of 90% | S1C(=CC=C1)C(=O)C1=CC=C(C=C1)C(C(=O)OC)C | C15H14O3S
